US05883098
To a mixture of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-yl-methyl)-4-(4-nitro-trans-cinnamoyl)piperazine (100 mg), powdered sodium hydroxide (30 mg) and cetyltrimethylammonium bromide (10 mg) in dichloromethane (2 ml) was added 2-dimethylaminoethyl chloride hydrochloride (50 mg) at room temperature. The resulting mixture was stirred at the same temperature for 14 hours. After adding dichloromethane (10 ml), the reaction mixture was filtered through Celite pad and the filtrate was concentrated in vacuo. The resulting residue was purified by column chromatography on a silica gel eluting with a mixture of dichloromethane and methanol (30:1) and then treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(-trifluoromethyl)benzoyl]-2-[1-(2-dimethylaminoethyl)-1H-indol-3-yl-methyl]-4-(4-nitro-trans-cinnamoyl)piperazine hydrochloride (34 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(1H-indol-3-yl-methyl)-4-(4-nitro-trans-cinnamoyl)piperazine | 100 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(\C=C\C2=CC=C(C=C2)[N+](=O)[O-])=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C31H24F6N4O4
reactant | sodium hydroxide | 30 mg | [OH-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 50 mg | Cl.CN(CCCl)C
catalyst | cetyltrimethylammonium bromide | 10 mg | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(-trifluoromethyl)benzoyl]-2-[1-(2-dimethylaminoethyl)-1H-indol-3-yl-methyl]-4-(4-nitro-trans-cinnamoyl)piperazine hydrochloride | 34 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C(\C=C\C2=CC=C(C=C2)[N+](=O)[O-])=O)CC2=CN(C3=CC=CC=C23)CCN(C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C35H33F6N5O4.ClH/c1-42(2)13-14-43-21-25(30-5-3-4-6-31(30)43)19-29-22-44(32(47)12-9-23-7-10-28(11-8-23)46(49)50)15-16-45(29)33(48)24-17-26(34(36,37)38)20-27(18-24)35(39,40)41;/h3-12,17-18,20-21,29H,13-16,19,22H2,1-2H3;1H/b12-9+;/t29-;/m1./s1
